US07655753B2
A porphyrin (5-(3-aminophenyl)-10,15,20-triphenylporphyrin is derivatized by reacting with excess bromoacetyl-bromide (dissolved in acetone containing sodium carbonate) to form (5-(3-bromoacetamidophenyl)-10,15,20-triphenylporphyrin. 10 μmol of the derivatized porphyrin and 10 mg of the scFv-4-helix bundle-cys are dissolved separately in 20 ml of dry dimethyl formamide. These two solutions are added over a period of 3 hours to 50 ml dry dimethyl formamide containing 25 mg sodium carbonate. These reactions are performed in the dark, under argon. The final product is scFv-4-helix bundle-cys with optimally conjugated porphyrins (scFv-4-helix bundle-cys/porphyrin). The scFv-4-helix bundle-cys/porphyrin is dialysed into PBS and concentrated as above.

reactant | porphyrin | C12=CC=C(N1)C=C1C=CC(=N1)C=C1C=CC(N1)=CC=1C=CC(N1)=C2 | C20H14N4
reactant | 5-(3-aminophenyl)-10,15,20-triphenylporphyrin | NC=1C=C(C=CC1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)C3=CC=CC=C3)=N2)C2=CC=CC=C2 | C44H31N5
reactant | bromoacetyl-bromide | BrCC(=O)Br | C2H2Br2O
product | 5-(3-bromoacetamidophenyl)-10,15,20-triphenylporphyrin | BrCC(=O)NC=1C=C(C=CC1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)C3=CC=CC=C3)=N2)C2=CC=CC=C2 | C46H32BrN5O
